US07087594B2
In 30 mL of dimethyl sulfoxide was dissolved 6.50 g of 5-[2-(3-chloropropoxy)ethyl]-1-benzothiophene, and to the solution were added 5.60 g of 3-azetidinol hydrochloride and 15.3 mL of a 5.mol/L aqueous sodium hydroxide solution, after which the resulting mixture was stirred at 65° C. for 3.5 hours. After the reaction mixture was cooled, water and ethyl acetate were added thereto and the pH was adjusted to 1 with 6 mol/L hydrochloric acid, and the aqueous layer was separated. Ethyl acetate was added to the aqueous layer and the pH was adjusted to 10 with a 5 mol/L aqueous sodium hydroxide solution, after which the organic layer was separated. The organic layer was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluent; chloroform:methanol=30:1 to 10:1) to obtain 4.77 g of 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-azetidinol.

reactant | 5-[2-(3-chloropropoxy)ethyl]-1-benzothiophene | 6.50 g | ClCCCOCCC=1C=CC2=C(C=CS2)C1 | C13H15ClOS
reactant | 3-azetidinol hydrochloride | 5.60 g | Cl.N1CC(C1)O
reactant | sodium hydroxide | 15.3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-azetidinol | 4.77 g | S1C=CC2=C1C=CC(=C2)CCOCCCN2CC(C2)O | C16H21NO2S
